US04035512
In 2.5 l. of glacial acetic acid is dissolved 417 g. of methyl 2-hydroxy-1-naphthoate, and with the addition of 150 g. of 5% palladium-on-carbon, reduction is carried out at a temperature of 60° to 80° C with hydrogen introduced at a pressure of 100kg./cm2. In 3 hours, approximately 2 moles of hydrogen is absorbed. The reaction mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is then subjected to distillation under reduced pressure and the fraction boiling at 123° -125° C (0.6 mmHg) is recovered to obtain methyl 2-hydroxy-5,6,7,8-tetrahydro-1-naphthoate as a colorless oil. The oil solidifies on standing in the cold.

reactant | methyl 2-hydroxy-1-naphthoate | OC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C12H10O3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | approximately 2 moles | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-hydroxy-5,6,7,8-tetrahydro-1-naphthoate | OC1=C(C=2CCCCC2C=C1)C(=O)OC | C12H14O3
